US06875765B2
Methyl 2-(5-quinolyl)propanoate (100 mg, 0.47 mmol) was dissolved in dry THF(10 mL) and cooled to −78° C. on a dry ice/acetone bath. Lithium aluminum hydride (1M in ether, 0.93 mL, 0.93 mmol) was added dropwise. The mixture stirred for 10 minutes while warming to 0° C. The reaction was quenched with KHSO4(1M aq., 1 mL). The mixture was made basic with NaOH(1M aq) and extracted into ethyl acetate. The organics were washed with brine, dried over MgSO4 and then removed under reduced pressure to give 2-(5-quinolyl)-1-propanol (65 mg, 74%). HPLC (10% to 90% acetonitrile in 0.1N aqueous ammonium acetate over 10 min at 2 mL/min using a waters Symmetry C18, 150×4.6 mm column) 2.96 min.

reactant | Methyl 2-(5-quinolyl)propanoate | 0.47 mmol, 100 mg | N1=CC=CC2=C(C=CC=C12)C(C(=O)OC)C | C13H13NO2
reactant | Lithium aluminum hydride | 0.93 mmol, 1M, 0.93 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(5-quinolyl)-1-propanol | 65 mg, 74% | N1=CC=CC2=C(C=CC=C12)C(CO)C | C12H13NO
